US07183423B1
A mixture of 3 mmol of methyl acrylate, 15 mmol of 3,3-dimethyl-2-butanol, 0.3 mmol of N-hydroxyphthalimide, 0.003 mmol of cobalt(II) acetate, 0.03 mmol of acetylacetonatocobalt(III), and 1 ml of acetonitrile was stirred at 50° C. in an oxygen atmosphere (1 atm) for 5 hours. A reaction mixture was subjected to column chromatography on a silica gel to yield 3-hydroxy-2-oxo-1-oxaspiro[4.5]decane in a yield of 83%.

reactant | methyl acrylate | 3 mmol | C(C=C)(=O)OC | C4H6O2
reactant | 3,3-dimethyl-2-butanol | 15 mmol | CC(C(C)O)(C)C | C6H14O
reactant | N-hydroxyphthalimide | 0.3 mmol | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | oxygen | O=O | O2
catalyst | cobalt(II) acetate | 0.003 mmol | C(C)(=O)[O-].[Co+2].C(C)(=O)[O-]
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
product | 3-hydroxy-2-oxo-1-oxaspiro[4.5]decane | yield of 83% | OC1C(OC2(C1)CCCCC2)=O | C9H14O3
